US05696159
To a solution of o-fluoroanisole, 101 g (0.80 mol) in 50 ml dry methylene chloride is added dropwise over 30 minute a solution of titanium tetrachloride, 182 g (0.96 mol, 1.2 equiv.) and α,α-dichloromethylmethyl ether, 110 g (0.96 mol) in an equal volume of methylene chloride. The temperature is maintained at 10°-20° C. with an ice-bath. The mixture is stirred at room temperature for one hour longer, and then poured over crushed ice-water with stirring. Ether (1 l) is added, and the mixture is stirred under nitrogen until solution occurs. The organic layer is extracted with water, sodium bicarbonate solution and is dried (MgSO4). The solvent is evaporated at 30° to leave crude product as an oil. When vacuum distilled through a jacketed Vigreux column, the oil gives 3-fluoro-4-methoxybenzaldehyde, B.P. 120°-12120 C. at 10 mm. Hg; Rf 0.6 on a silica-gel G plate with methylene chloride.

reactant | o-fluoroanisole | FC1=C(C=CC=C1)OC | C7H7FO
reactant | Ether | 1 l | CCOCC | C4H10O
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
catalyst | titanium tetrachloride | [Ti](Cl)(Cl)(Cl)Cl
product | 3-fluoro-4-methoxybenzaldehyde | FC=1C=C(C=O)C=CC1OC | C8H7FO2
